US05618839
Di-tert-butyl terephthalate (XXVI)
To a solution of terephthaloylchloride (2.00 g, 9.85 mmol) in dry pyridine (25.0 mL) was added tert-butyl alcohol (803 mg, 10.8 mmol). After 16 hours at 85° C. water (75.0 mL) was added and the solid filtered. The solid was dissolved in diethyl ether (40 mL) and washed with saturated sodium bicarbonate (2×75 mL). The organic phase was then dried over anhydrous magnesium sulfate and concentrated in vacuo to give 1.15 g (Y: 42%) of the title compound; 1H-NMR (CDCl3): δ8.01 (s, 4H), 1.60 (s, 18H).

reactant | terephthaloylchloride | 9.85 mmol, 2.00 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | tert-butyl alcohol | 10.8 mmol, 803 mg | C(C)(C)(C)O | C4H10O
reactant | water | 75.0 mL | O | H2O
solvent | pyridine | 25.0 mL | N1=CC=CC=C1 | C5H5N
product | Di-tert-butyl terephthalate | C(C1=CC=C(C(=O)OC(C)(C)C)C=C1)(=O)OC(C)(C)C | C16H22O4
